US07728142B2
6-Bromo-4-(4-chloro-phenyl)-3-methanesulfonyl-2-methyl-quinoline
(2-Amino-5-bromo-phenyl)-(4-chloro-phenyl)-methanone (compound of example A.2) (4 g, 12.9 mmol), methanesulfonylacetone (2.63 g, 19.3 mmol) and sodium tetrachloroaureate(III) dihydrate (0.26 g, 0.64 mmol) were heated at reflux in 2-propanol (50 ml) for 4 days. The resulting mixture was evaporated to dryness and the residue extracted with dichloromethane (2×), 1 N NaOH (2×) and sat. NaCl (1×). The crude product was purified by chromatography on silica gel in dichloromethane. The product was crystallized from dichloromethane/heptane by evaporation of dichloromethane. One obtained a light yellow solid (1 g, 19%). MS: m/z=410 (M).

reactant | (2-Amino-5-bromo-phenyl)-(4-chloro-phenyl)-methanone | 12.9 mmol, 4 g | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=C(C=C1)Cl | C13H9BrClNO
reactant | methanesulfonylacetone | 19.3 mmol, 2.63 g | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | sodium | 0.64 mmol, 0.26 g | [Na] | Na
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 6-Bromo-4-(4-chloro-phenyl)-3-methanesulfonyl-2-methyl-quinoline | 1 g, 19% | BrC=1C=C2C(=C(C(=NC2=CC1)C)S(=O)(=O)C)C1=CC=C(C=C1)Cl | C17H13BrClNO2S
